US07235572B2
f] 2-[4-Methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol
A solution of [4-methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid (430 mg, 1.4 mmol) in tetrahydrofuran (6 ml) was treated at 0° C. with a 1 M solution of BH3*THF in tetrahydrofuran (3.6 ml, 3.6 mmol). The cooling bath was removed and the reaction mixture stirred at ambient temperature for 16 h. Careful quenching with MeOH and ice water, twofold extraction with AcOEt, washing with ice water/brine 1/1, drying over magnesium sulfate, and evaporation of the solvent left a crude product which was refluxed for 30 min in MeOH to liberate quantitatively the free alcohol. The solvent was evaporated in vacuo and the residue was purified by column chromatography (silica gel, n-heptane/ethyl acetate) to yield 230 mg (0.8 mmol, 56%) of the title compound as yellow oil.

reactant | [4-methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid | 1.4 mmol, 430 mg | CC=1N=C(SC1CC(=O)O)C1=CC(=CC=C1)C(F)(F)F | C13H10F3NO2S
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3.6 mmol, 3.6 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-Methyl-2-(3-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | 0.8 mmol, 230 mg, 56% | CC=1N=C(SC1CCO)C1=CC(=CC=C1)C(F)(F)F | C13H12F3NOS
